US06740662B1
Glutaric anhydride and 6-chloro-3-(3-chlorobenzoyl)-2-ethylaminopyridine were reacted under heating at 150° C. and then worked up in a usual manner. The resulting compound was reacted with methyl iodide in 2-butanone in the presence of potassium carbonate at 60° C. Thereafter, the reaction mixture was worked up and purified in a usual manner to obtain methyl 3-[7-chloro-4-(3-chlorophenyl)-1-ethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate as a colorless solid. MS: 405.

reactant | Glutaric anhydride | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 6-chloro-3-(3-chlorobenzoyl)-2-ethylaminopyridine | ClC1=CC=C(C(=N1)NCC)C(C1=CC(=CC=C1)Cl)=O | C14H12Cl2N2O
reactant | methyl iodide | CI | CH3I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | methyl 3-[7-chloro-4-(3-chlorophenyl)-1-ethyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoate | ClC1=CC=C2C(=C(C(N(C2=N1)CC)=O)CCC(=O)OC)C1=CC(=CC=C1)Cl | C20H18Cl2N2O3
